US05552558
B. 5-(Hydroxymethyl)-2-isopropylthiazole.
Using the procedure of Example 5B, but replacing ethyl 2-isopropyl-4-thiazolecarboxylate with ethyl 2-isopropylthiazole-5-carboxylate provided, after silica gel chromatography using 3% methanol in chloroform, the desired compound, Rf 0.3, (5% methanol in chloroform) in 25% yield. 1H NMR (d6 -DMSO)δ1.30 (d, J=7 Hz, 6H), 3.22 (heptet, J=7 Hz, 1H), 4.61 (dd, J=6, 1 Hz, 2H), 5.45 (t, J=6 Hz, 1H), 7.48 (br s, 1H).

reactant | ethyl 2-isopropylthiazole-5-carboxylate | C(C)(C)C=1SC(=CN1)C(=O)OCC | C9H13NO2S
reactant | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-(Hydroxymethyl)-2-isopropylthiazole | 25% yield | OCC1=CN=C(S1)C(C)C | C7H11NOS
